US08975254B2
d) 3-tert-butyl-N-(1-(5-(4-cyano-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
3-tert-butyl-N-(1-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide (0.615 g, 1.355 mmol) was weighed into a reaction vial (Biotage) and 11.6 ml of DMF was added. Zinc cyanide (0.350 g, 2.981 mmol), S-Phos (0.112 g, 0.271 mmol) and Pd2(dba)3 (0.100 g, 0.108 mmol) were added. The reaction vial was flushed with nitrogen, capped and heated for 30 min at 150° C. in microwave oven. The mixture was allowed to cool to RT and 30 ml of 1 M NaOH was added. The mixture was extracted with EtOAc for three times and the combined organic layers were washed with water, dried with Na2SO4, filtered and evaporated to dryness. CombiFlash purification afforded 0.094 g of the title product. 1H-NMR (400 MHz; CDCl3): δ 1.29 (d, 3H), 1.33 (s, 9H), 3.00 (d, 2H), 4.49-4.56 (m, 1H), 6.31 (d, 1H), 6.58 (s, 1H), 6.84 (d, 1H), 7.11 (m, 1H), 7.78 (m, 1H), 7.85 (m, 1H), 7.95 (m, 1H).

reactant | 3-tert-butyl-N-(1-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 1.355 mmol, 0.615 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NC(CC=1OC(=CC1)C1=CC(=C(C=C1)Cl)C(F)(F)F)C | C22H23ClF3N3O2
reactant | S-Phos | 0.271 mmol, 0.112 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | DMF | 11.6 ml | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 2.981 mmol, 0.350 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 0.108 mmol, 0.100 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-tert-butyl-N-(1-(5-(4-cyano-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.094 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NC(CC=1OC(=CC1)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C23H23F3N4O2
